US05472983
Preparation of N-tert-butyl 4-nitrobenzthioamide (CPI1057)
The preparation of Example 1 was repeated with the changes that N-tert-butyl 4-nitrobenzamide (3.00 g, 0.0135 mole) and 2,4-bis (4-methoxyphenyl) -1,3 -dithia-2,4-diphosphetane-2,4-disulfide (3.28 g, 0.0081 mole) were the starting reactants and the reaction was carried out by refluxing in 50 mL dry toluene solvent for 3 hours. In addition, the solvent was removed in vacuo leaving a yellow viscous oil. The oil was taken up into ethyl acetate and the solution filtered through silica gel. The solvent was removed in vacuo, the residue taken up into ethanol, and the mixture filtered through fluted filter paper. Recrystallization from ethanol produced 2.20 g golden crystals of the desired product (68% yield), mp 136°-138° C. Proton nuclear magnetic resonance (89.55 MHz) showed absorptions at 8.21 ppm (d, 8.0 Hz, 2H; 3,5-aryl H); 7.76 ppm (d, 8.0 Hz, 2H; 2,6-aryl H); 1.67 ppm (s, 9H; tert-butyl H).

reactant | N-tert-butyl 4-nitrobenzamide | 0.0135 mole, 3.00 g | C(C)(C)(C)NC(C1=CC=C(C=C1)[N+](=O)[O-])=O | C11H14N2O3
reactant | 2,4-bis (4-methoxyphenyl) -1,3 -dithia-2,4-diphosphetane-2,4-disulfide | 0.0081 mole, 3.28 g | COC1=CC=C(C=C1)P1(SP(S1)(C1=CC=C(C=C1)OC)=S)=S | C14H14O2P2S4
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
product | N-tert-butyl 4-nitrobenzthioamide | 68% yield | C(C)(C)(C)NC(C1=CC=C(C=C1)[N+](=O)[O-])=S | C11H14N2O2S
